US09085555B2
C. 2-(3-Acetyl-6-(methoxycarbonyl)-1H-indazol-1-yl)acetic acid
The title compound was prepared from methyl 3-acetyl-1-(2-tert-butoxy-2-oxoethyl)-1H-indazole-6-carboxylate in a similar manner as described in step C of Scheme A13 for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)acetic acid. MS: 277 [M+H]+; tR (HPLC conditions k): 2.95 min.

reactant | methyl 3-acetyl-1-(2-tert-butoxy-2-oxoethyl)-1H-indazole-6-carboxylate | C(C)(=O)C1=NN(C2=CC(=CC=C12)C(=O)OC)CC(=O)OC(C)(C)C | C17H20N2O5
reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
product | 2-(3-Acetyl-6-(methoxycarbonyl)-1H-indazol-1-yl)acetic acid | C(C)(=O)C1=NN(C2=CC(=CC=C12)C(=O)OC)CC(=O)O | C13H12N2O5
